US07745449B2
Step (d): 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide
A mixture of 4-methyl-3-(7-oxo-6,7-dihydrothieno[2,3-d]pyridazin-2-yl)benzoic acid (1.01 g, 3.53 mmol) and phosphorus oxychloride (30.0 ml, 322 mmol) was heated to 105° C. for 4 hrs. After cooling to RT, the volatiles were removed in vacuo. The residue was re-dissolved in DCM (50 ml) and treated with TEA (1.49 ml, 10.6 mmol) and dropwise with cyclopropylamine (0.746 ml, 10.6 mmol). The mixture was diluted with 1 M KHSO4 and extracted with CH2Cl2 (3×). The combined organics were dried over Na2SO4, filtered and concentrated over SiO2. Column chromatography (MeOH/CH2Cl2=0→2%) afforded the desired product. Yield: 0.92 g. MS (ESI, pos. ion) m/z: 344 (M+1).

reactant | 4-methyl-3-(7-oxo-6,7-dihydrothieno[2,3-d]pyridazin-2-yl)benzoic acid | 3.53 mmol, 1.01 g | CC1=C(C=C(C(=O)O)C=C1)C1=CC2=C(C(NN=C2)=O)S1 | C14H10N2O3S
reactant | phosphorus oxychloride | 322 mmol, 30.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyclopropylamine | 10.6 mmol, 0.746 ml | C1(CC1)N | C3H7N
solvent | KHSO4 | 1 M | OS(=O)(=O)[O-].[K+]
product | 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide | ClC=1N=NC=C2C1SC(=C2)C=2C=C(C(=O)NC1CC1)C=CC2C | C17H14ClN3OS
